US08633173B2
189 d) N-Methyl-N-(2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl}-phenyl)-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-N-methyl-methanesulfonamide (125.0 mg, 0.3464 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (73.0 mg, 0.382 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (37.0 mg, 0.0677 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.138 g, 77%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.40 (d, J=6.6 Hz, 1H), 7.65 (d, J=7.6 Hz, 1H), 7.61 (d, J=7.4 Hz, 1H), 7.55-7.48 (m, 3H), 7.43 (t, J=7.5 Hz, 1H), 7.37 (t, J=7.5 Hz, 1H), 7.00 (d, J=7.7 Hz, 2H), 6.86 (t, J=7.0 Hz, 1H), 6.73 (s, 1H), 3.61 (s, 3H), 3.23-3.16 (m, 7H), 2.63-2.58 (m, 4H), 2.37 (s, 3H). MS=516 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-N-methyl-methanesulfonamide | 0.3464 mmol, 125.0 mg | ClC1=NN2C(C(=CC=C2)C#CC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C16H13ClN4O2S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.382 mmol, 73.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0677 mmol, 37.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C#CC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C27H29N7O2S
